US06310099B1
5-Ethyloxindole (˜54 g, ˜335 mmol), ethanol (750 ml), water (150 ml) and potassium hydroxide (65 g, 1.62 mol) are combined and heated at reflux for 3 days. The mixture is allowed to cool and then filtered through a bed of Celite. The filtrate is concentrated under reduced pressure, water is added and the pH adjusted to 6.5. The precipitate is filtered off, washed with water and dried in an oven overnight to yield 5-ethyl-2-aminophenylacetic acid.

reactant | 5-Ethyloxindole | ˜335 mmol, ˜54 g | C(C)C=1C=C2CC(NC2=CC1)=O | C10H11NO
reactant | ethanol | 750 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 1.62 mol, 65 g | [OH-].[K+]
solvent | water | 150 ml | O | H2O
product | 5-ethyl-2-aminophenylacetic acid | C(C)C=1C=CC(=C(C1)CC(=O)O)N | C10H13NO2
